US09340549B2
(S)-3-(4-(6-Amino-5-bromopyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one
To a solution of (S)-3-(4-(6-aminopyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one (1 g, 2.78 mmol) in DCM (13.91 mL) at 0° C., was added NBS (0.545 g, 3.06 mmol). The reaction mixture was then stirred for 1 hour at the same temperature. LC-MS indicated clean and complete conversion to desired product. The solution was concentrated and water was added. The solid was filtered and washed with water three times. The solid was then air-dried affording (S)-3-(4-(6-amino-5-bromopyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one (1.26 g, 2.87 mmol, 103% yield) as a tan solid. The material was used without further purification. m/z (ESI) 439.8 (M+2)+.

reactant | (S)-3-(4-(6-aminopyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one | 2.78 mmol, 1 g | NC1=CC=C(C=N1)C1=CC=C(C=C1)N1C(OC([C@@H]1C1=CC=CC=C1)(C)C)=O | C22H21N3O2
reactant | NBS | 3.06 mmol, 0.545 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DCM | 13.91 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(4-(6-Amino-5-bromopyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one | NC1=C(C=C(C=N1)C1=CC=C(C=C1)N1C(OC([C@@H]1C1=CC=CC=C1)(C)C)=O)Br | C22H20BrN3O2
